US09278950B2
Step 2. Ethyl 3-amino-7-bromo-1,6-naphthyridine-2-carboxylate
A solution of pyridine (0.11 mL, 1.4 mmol) and ethyl bromopyruvate (0.19 mL, 1.5 mmol) in EtOH (2.2 mL) was stirred at 70° C. in a sealed vial for 16 h. The reaction mixture was allowed to cool to ambient temperature prior and a solution of 4-amino-6-bromonicotinaldehyde (0.278 g, 1.38 mmol) and pyridine (0.67 mL, 8.3 mmol) in EtOH (1 mL) was then added. The resulting mixture was heated at 100° C. in a sealed vial for 16 h. Stirring was continued at 100° C. for an additional 24 h. Pyrrolidine (0.23 mL, 2.8 mmol) was added and stirring was continued at 100° C. for 5 h in a sealed vial. The crude reaction mixture was purified by flash chromatography (40 g silica gel column, eluting with 0-100% EtOAc/hexanes) to give the sub-title compound. LCMS (ESI) calc. for C11H11BrN3O2 [M+H]+: m/z=296.0. found: 295.9.

reactant | pyridine | 1.4 mmol, 0.11 mL | N1=CC=CC=C1 | C5H5N
reactant | ethyl bromopyruvate | 1.5 mmol, 0.19 mL | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | 4-amino-6-bromonicotinaldehyde | 1.38 mmol, 0.278 g | NC1=CC(=NC=C1C=O)Br | C6H5BrN2O
reactant | pyridine | 8.3 mmol, 0.67 mL | N1=CC=CC=C1 | C5H5N
reactant | Pyrrolidine | 2.8 mmol, 0.23 mL | N1CCCC1 | C4H9N
solvent | EtOH | 2.2 mL | CCO | C2H6O
solvent | EtOH | 1 mL | CCO | C2H6O
product | Ethyl 3-amino-7-bromo-1,6-naphthyridine-2-carboxylate | NC=1C(=NC2=CC(=NC=C2C1)Br)C(=O)OCC | C11H10BrN3O2
